US07160888B2
Synthesis of 7-[4-(4-Indan-4-yl-piperazin-1-yl)-butoxy]-5-trifluoromethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 1-indan-4-yl-piperazine hydrochloride was coupled by reductive amination to 4-(7-oxo-4-trifluoromethyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound. MS: APCI: M+1: 489.4 (Exact Mass: 488.24).

reactant | 1-indan-4-yl-piperazine hydrochloride | Cl.C1CCC2=C(C=CC=C12)N1CCNCC1
reactant | 4-(7-oxo-4-trifluoromethyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C(=CC(=NC2N1)OCCCC=O)C(F)(F)F | C13H13F3N2O3
product | 7-[4-(4-Indan-4-yl-piperazin-1-yl)-butoxy]-5-trifluoromethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C1CCC2=C(C=CC=C12)N1CCN(CC1)CCCCOC1=CC(=C2CCC(NC2=N1)=O)C(F)(F)F | C26H31F3N4O2
